US05399672
32.8 g (60 mmol) of 2-butyl-3-[3,5-diiodo-4-hydroxybenzoyl]benzofuran and 13.8 g (100 mmol) of anhydrous potassium carbonate are initially introduced into 200 ml of acetonitrile. 17.6 g (90 mmol) of ethyl 4-bromobutyrate are added dropwise at room temperature within the space of 30 minutes and the suspension is subsequently heated under reflux for 14 h. Once the reaction solution has been cooled down to room temperature, 200 ml of distilled water are added and the mixture is extracted 3 times with 100 ml of methyl tert-butyl ether. The combined organic extracts are dried and concentrated to dryness. The residue, which consists of 2-butyl-3-[3,5-diiodo-4-(3-ethoxycarbonyl-propyloxy)benzoyl]benzofuran, is introduced into 100 ml of isopropanol and a solution of 39.6 g (600 mmol) of 85% potassium hydroxide in 400 ml of distilled water is added. The suspension is heated at about 60° C. until a clear solution is formed. Once the solution has been cooled down to room temperature, 100 ml of 1N hydrochloric acid are added, and the mixture is adjusted to pH 3 with 32% hydrochloric acid while cooling, and then extracted 3 times with 200 ml of MTB ether on each occasion. The combined organic, dried, rotary-evaporated extracts are taken up in 50 ml of dichloromethane and left at 0° C. for several hours. The pale brown crystals which have precipitated out are stirred up with a further 50 ml of dichloromethane. After filtering with suction, washing and drying, 5.7 g (20%) of almost colourless crystals of 2-butyl-3-[3,5-diiodo-4-(3-carboxypropyloxy)-benzoyl]benzofuran are obtained which can, if desired, be further purified on a silica gel column (MTB ether/methanol=9:1).

reactant | 2-butyl-3-[3,5-diiodo-4-hydroxybenzoyl]benzofuran | 60 mmol, 32.8 g | C(CCC)C=1OC2=C(C1C(C1=CC(=C(C(=C1)I)O)I)=O)C=CC=C2 | C19H16I2O3
reactant | potassium carbonate | 100 mmol, 13.8 g | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl 4-bromobutyrate | 90 mmol, 17.6 g | BrCCCC(=O)OCC | C6H11BrO2
reactant | potassium hydroxide | 600 mmol, 39.6 g | [OH-].[K+]
reactant | hydrochloric acid | 1N, 100 ml | Cl | ClH
solvent | water | 400 ml | O | H2O
solvent | water | 200 ml | O | H2O
solvent | acetonitrile | 200 ml | C(C)#N | C2H3N
product | 2-butyl-3-[3,5-diiodo-4-(3-carboxypropyloxy)-benzoyl]benzofuran | C(CCC)C=1OC2=C(C1C(C1=CC(=C(C(=C1)I)OCCCC(=O)O)I)=O)C=CC=C2 | C23H22I2O5
